US09382218B2
N-(2′-chloro-4′-isothiocyanato-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide
To a cold (0° C.) suspension of N-(4′-amino-2′-chloro-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide (570 mg, 1.56 mmol, Eq: 1.00) and calcium carbonate (313 mg, 3.13 mmol, Eq: 2) in dichloromethane (3.38 ml) and water (3.38 ml) was added thiophosgene (198 mg, 131 μl, 1.72 mmol, Eq: 1.1). The reaction mixture was allowed to warm up to room temperature and was vigorously stirred for 16 h. 1N HCl was added to adjust the pH to ca. 2. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated and washed with water then brine and purified on silica gel (column 24 g, dichloromethane/ethyl acetate 1:0 to 85:15) to give 565 mg (89%) of the desired product as a colorless oil.

reactant | N-(4′-amino-2′-chloro-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide | 1.56 mmol, 570 mg | NC1=CC(=C(C(=C1)C(F)(F)F)C1=CC(=CC=C1)NS(=O)(=O)C)Cl | C14H12ClF3N2O2S
reactant | calcium carbonate | 3.13 mmol, 313 mg | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 1.72 mmol, 131 μl, 198 mg | C(=S)(Cl)Cl | CCl2S
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 3.38 ml | ClCCl | CH2Cl2
solvent | water | 3.38 ml | O | H2O
product | N-(2′-chloro-4′-isothiocyanato-6′-(trifluoromethyl)biphenyl-3-yl)methanesulfonamide | 565 mg, 89% | ClC1=C(C(=CC(=C1)N=C=S)C(F)(F)F)C1=CC(=CC=C1)NS(=O)(=O)C | C15H10ClF3N2O2S2
